US07119113B2
(RS)-4-Fluoro-9H-xanthene-9-carboxylic Acid (5-trifluoromethyl-oxazol-2-yl)-amide
The title compound, white solid, m.p. 228° C. and MS: m/e=379.2 (M+H+) is prepared in accordance with the general method of example 3c from 5-trifluoromethyl-oxazol-2-ylamine and (RS)-4-fluoro-9-xanthene-carboxylic acid.

reactant | 5-trifluoromethyl-oxazol-2-ylamine | FC(C1=CN=C(O1)N)(F)F | C4H3F3N2O
reactant | (RS)-4-fluoro-9-xanthene-carboxylic acid | FC1=CC=CC=2C(C3=CC=CC=C3OC12)C(=O)O | C14H9FO3
product | (RS)-4-Fluoro-9H-xanthene-9-carboxylic Acid (5-trifluoromethyl-oxazol-2-yl)-amide | FC(C1=CN=C(O1)NC(=O)C1C2=CC=CC=C2OC=2C(=CC=CC12)F)(F)F | C18H10F4N2O3
